US07666879B2
B. 2-tert-Butoxycarbonylamino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid
Combine 2-Amino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid methyl ester (5.10 g, 24.03 mmol) and di-tert-butyl dicarbonate (5.24 g, 24.03 mmol) in pyridine (15 mL). Stir the reaction mixture for 1 hour, then add a solution of potassium trimethylsilanolate (17.12 g, 120.13 mmol) in THF (100 mL). Stir the reaction mixture for 14 hours under N2. Extract the mixture with ethyl acetate versus 1 N HCl. The organic layer is washed with aqueous saturated sodium chloride. The resulting organics are dried over magnesium sulfate, filtered, and concentrated. Purify on a plug of silica gel, eluting with hexanes→5% methanol in dichloromethane to afford product (4.55 g, 64%). MS (ES), m/z 243 (M+1, product—tert-butyl).

reactant | 2-Amino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid methyl ester | 24.03 mmol, 5.10 g | COC(=O)C=1N=C(SC1C1(CC1)C)N | C9H12N2O2S
reactant | di-tert-butyl dicarbonate | 24.03 mmol, 5.24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium trimethylsilanolate | 120.13 mmol, 17.12 g | C[Si]([O-])(C)C.[K+]
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-tert-Butoxycarbonylamino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid | 4.55 g, 64% | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C(=O)O)C1(CC1)C | C13H18N2O4S
